US09422236B2
Step-4 Preparation of (4R,5R)-5-(4-Fluoromethanesulfinyl-phenyl)-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester
To a solution of (4R,5R)-4-Fluoromethyl-5-(4-fluoromethylsulfanyl-phenyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (2.67 g, 7.158 mmol) in DCM (250 mL) is cooled to −78° C. followed by addition of solution of m-CPBA (1.59 g, 7.158 mmol) in DCM (25 mL). Reaction mixture is allowed to stir −78° C. for 20 minutes. After completion of the reaction mixture is quenched with aqueous bicarbonate solution and extracted with DCM. Organic layer is dried over sodium sulphate, concentrated and purified by combi-flash chromatography (40 g column) using 78% ethyl acetate in hexane as an eluent to afford title compound (1.88 g) as colorless oil. 1H-NMR (400 MHz, DMSO): δ 1.42 (s, 9H), 1.50 (s, 3H), 1.62 (s, 3H), 383-.388 (m, 1H), 4.46-4.58 (m, 1.5H), 4.75-4.84 (m, 1.5H), 5.17 (d, J=7.2 Hz, 1H), 5.25-5.27 (dd, J=1.12 Hz, J=8.8 Hz, 0.5H), 5.37-5.39 (m, 0.5H), 5.51-5.54 (dd, J=2.44 Hz, J=8.84 Hz, 0.5H), 5.63-5.64 (m, 0.5H), 7.70-7.77 (m, 4H). LC-MS (m/z): M+H=390.4.

reactant | (4R,5R)-4-Fluoromethyl-5-(4-fluoromethylsulfanyl-phenyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 7.158 mmol, 2.67 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@@H]1CF)C1=CC=C(C=C1)SCF)(C)C | C18H25F2NO3S
reactant | m-CPBA | 7.158 mmol, 1.59 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | (4R,5R)-5-(4-Fluoromethanesulfinyl-phenyl)-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 1.88 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@@H]1CF)C1=CC=C(C=C1)S(=O)CF)(C)C | C18H25F2NO4S
